US07256177B2
1-Iminomethyl-4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide
A stirred suspension of 4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide (153 mg, 0.34 mmol, 1 equiv) and ethyl formimidate (Aldrich) (44 mg, 0.40 mmol, 1.2 equiv.) in dioxane (1 mL) was treated with 1M aqueous NaOH (0.74 mL, 0.74 mmol, 2.2 equiv). After 1 h additional ethyl formimidate (44 mg, 0.40 mmol, 1.2 equiv) was added to the reaction mixture, and stirring was continued for 30 min. The reaction mixture was frozen and lyophilized. The lyophilized powder was purified by column chromatography to furnish the title compound (8 mg): TLC Rf=0.48 CHCl3/ MeOH/32% aqueous AcOH (5:3:1); MS (ESPOS): 447.7 [M+H]+, 469.7 [M+Na]+; MS (ESNEG): 481.6 [M−H+HCl]−.

reactant | 4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 0.34 mmol, 153 mg, 1 equiv | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1NCC(C1)CCCCC)C | C20H38N2O5S
reactant | ethyl formimidate | 0.40 mmol, 44 mg, 1.2 equiv. | C(OCC)=N | C3H7NO
reactant | NaOH | 0.74 mmol, 1M, 0.74 mL, 2.2 equiv | [OH-].[Na+]
reactant | ethyl formimidate | 0.40 mmol, 44 mg, 1.2 equiv | C(OCC)=N | C3H7NO
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 1-Iminomethyl-4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 8 mg | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1N(CC(C1)CCCCC)C=N)C | C21H39N3O5S
